US06620842B2
1-[3-Methyl-7-(2-Methylallyloxy)flavon-8-yl]-3-(3-Methoxy-Phenyl)-Propen-1-one (See Accompanying Formula Drawing VIB 169).
A solution of KOH 50% (3 ml) is added to an equimolar solution of 7-(2-methylallyloxy) -acetyl-3methylflavone (2.61 g, 0.0075 mol) and 3-methoxy-benzaldehyde (1.01 g, 0.0075 mol) in ethanol 95%; the addition is performed under energetic stirring at room temperature. The reaction is left under stirring for one night and then diluted with water and acidified; the precipitate is separated by filtration and dried under vacuum. The compound is crystallized by methanol to give 2.4 g of product m.p. 131-34° C., 1H-NMR (CDCl3)δ:1.76 (s, 3H); 2.20 (s, 3H); 3.82 (s, 3H) 4.62 (s, 2H); 5.05 (d, 2H, J=18 Hz); 6.95-7.10 (m, 3H); 7.09 (d, 1H, J=9 Hz); 7.10 (d, 1H, J=9 Hz); 7.31 (d, 1H, J=16 Hz); 7.40-07.45 (m, 3H); 7.55-7.58 (m, 2H); 7.31 (s, 2H); 8.32 (d, 1H, J=8.9 Hz).

reactant | KOH | 3 ml | [OH-].[K+]
reactant | 7-(2-methylallyloxy) -acetyl-3methylflavone | 0.0075 mol, 2.61 g | CC(COC1=CC(=C2C(C(=C(OC2=C1)C1=CC=CC=C1)C)=O)C(C)=O)=C | C22H20O4
reactant | 3-methoxy-benzaldehyde | 0.0075 mol, 1.01 g | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-[3-Methyl-7-(2-Methylallyloxy)flavon-8-yl]-3-(3-Methoxy-Phenyl)-Propen-1-one | 2.4 g | CC1=C(OC2=C(C(=CC=C2C1=O)OCC(=C)C)C(C=CC1=CC(=CC=C1)OC)=O)C1=CC=CC=C1 | C30H26O5
